US05574071
A mixture of 4.76 g of 3-chloro-4'-methylbiphenyl, 2.94 g of hexamethylenetetramine and 30 ml of trifluoroacetic acid is heated to boiling under reflux for 5 days. The reaction mixture is then concentrated and treated with ice-water, whereupon it is stirred for 15 minutes, made basic with sodium carbonate and extracted with ether. After evaporation of the ethereal extracts and chromatography of the residue on silica gel with methylene chloride/methanol 9:1 as the eluent, there is obtained 2-chloro-4-(4'-methylphenyl)benzaldehyde, b.p. 210°-215°C./25 Pa.

reactant | 3-chloro-4'-methylbiphenyl | 4.76 g | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C | C13H11Cl
reactant | hexamethylenetetramine | 2.94 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-chloro-4-(4'-methylphenyl)benzaldehyde | ClC1=C(C=O)C=CC(=C1)C1=CC=C(C=C1)C | C14H11ClO
